US07598255B2
[2-(4-Fluoro-benzyl)-4-p-tolyl-pyrimidin-5-ylmethyl]-dimethyl-amine
2-(4-Fluoro-benzyl)-4-p-tolyl-pyrimidine-5-carboxylic acid ethyl ester. To solution of 3-dimethylamino-2-(4-methyl-benzoyl)-acrylic acid ethyl ester (Tetrahedron, 2002, 58, 8581-8589; 0.567 g, 2.15 mmol) in EtOH (10 mL) was added 2-(4-fluoro-phenyl)-acetamidine hydrochloride (0.405 g, 2.15 mmol) and Et3N (0.90 mL, 6.5 mmol). The mixture was heated at reflux for 18 h, and then was diluted with water and extracted with EtOAc (2×). The combined organic layers were dried and concentrated. The resulting residue was purified via SiO2 chromatography (5-20% EtOAc/hexanes) to give 0.560 g (74%) of the title compound. MS (ESI): exact mass calcd. for C21H19FN2O2, 350.14; m/z found, 351.4 [M+H]+. 1H NMR (CDCl3): 8.97 (s, 1H), 7.51 (d, J=8.2, 2H), 7.38-7.35 (m, 2H), 7.27-7.26 (m, 2H), 7.01-6.97 (m, 2H), 4.32 (s, 2H), 4.23 (q, J=7.1, 2H), 2.42 (s, 3H), 1.16 (t, J=7.1, 3H). Step B. [2-(4-Fluoro-benzyl)-4-p-tolyl-pyrimidin-5-yl]-methanol. To a 0° C. solution of the product from Step A (0.606 g, 1.73 mmol) in THF (8 mL) was added DIBAL-H (1.5 M in toluene; 2.5 mL, 3.8 mmol). The mixture was allowed to warm to rt, and was stirred for 18 h. The mixture was diluted with 20% aq. sodium potassium tartrate and extracted with EtOAc (2×). The combined organic layers were dried and concentrated. The resulting residue was purified via SiO2 chromatography (40-60% EtOAc/hexanes) to give 0.330 g (62%) of the title compound. MS (ESI): exact mass calcd. for C19H17FN2O, 308.13; m/z found, 309.4 [M+H]+. 1H NMR (CDCl3): 8.77 (s, 1H), 7.58 (d, J=8.0, 2H), 7.38-7.35 (m, 2H), 7.29 (d, J=7.9, 2H), 6.99-6.96 (m, 2H), 4.70 (s, 2H), 4.29 (s, 2H), 2.42 (s, 3H). Step C. The title compound was prepared using the methods described in Example 112, Step C. MS (ESI): exact mass calcd. for C21H22FN3, 335.18; m/z found, 336.4 [M+H]+. 1H NMR (CDCl3): 8.67 (s, 1H), 7.69 (d, J=8.1, 2H), 7.40-7.36 (m, 2H), 7.29 (d, J=7.9, 2H), 7.01-6.96 (m, 2H), 4.29 (s, 2H), 3.36 (s, 2H), 2.42 (s, 3H), 2.22 (s, 6H).

reactant | 2-(4-Fluoro-benzyl)-4-p-tolyl-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)CC1=CC=C(C=C1)F)C1=CC=C(C=C1)C | C21H19FN2O2
reactant | 3-dimethylamino-2-(4-methyl-benzoyl)-acrylic acid ethyl ester | 2.15 mmol, 0.567 g | C(C)OC(C(=CN(C)C)C(C1=CC=C(C=C1)C)=O)=O | C15H19NO3
reactant | 2-(4-fluoro-phenyl)-acetamidine hydrochloride | 2.15 mmol, 0.405 g | Cl.FC1=CC=C(C=C1)CC(=N)N
reactant | Et3N | 6.5 mmol, 0.90 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | O | H2O
product | [2-(4-Fluoro-benzyl)-4-p-tolyl-pyrimidin-5-ylmethyl]-dimethyl-amine | 0.560 g, 74% | FC1=CC=C(CC2=NC=C(C(=N2)C2=CC=C(C=C2)C)CN(C)C)C=C1 | C21H22FN3
